US04134918
A solution of 10 mmole of [((ethylsulfinyl)methyl)-thio]ethane in 20 ml of tetrahydrofuran is treated with 10 mmole of sodium hydride at 25° C for 2 hours after which 10 mmole of N-(3-bromopropyl)phthalimide in 5 ml of tetrahydrofuran is added. The reaction mixture is stirred overnight at 25° C then quenched with brine and extracted with chloroform. The organic phase is washed with brine, dried over magnesium sulfate and concentrated under reduced pressure. The residue is purified by chromotography on silica gel to give N-(4-ethylthio-4-ethylsulfinylbutyl)phthalimide. To a solution of 22 mmole of N-(4-ethylthio-4-ethylsulfinylbutyl)phthalimide in 20 ml of tetrahydrofuran is added under nitrogen at 0° C a solution of lithium diisopropylamide in 23 mmole of tetrahydrofuran. The reaction mixture is stirred for 30 minutes at 25° C then is saturated with difluorochloromethane. Stirring is continued for 2 hours at 40° C. After quenching with brine, the reaction mixture is extracted with ether. The organic phase is decanted, washed with brine, dried over magnesium sulfate and concentrated under reduced pressure to give N-(4-ethylthio-4-ethylsulfinyl-4-difluoro-methylbutyl)phthalimide. To a solution of 30 mole of N-(4-ethylthio-4-ethylsulfinyl-4-difluoromethylbutyl)-phthalimide in 33 ml of acetonitrile is added at 0° C 1.1 ml of a 70% aqueous solution of perchloric acid. After stirring for 2 hours at 0° C the reaction mixture is poured into 60 ml of water then extracted with chloromethane. The organic phase is washed with brine, dried, filtered and the filtrate concentrated under reduced pressure to afford difluoromethyl 3-phthalimidopropyl ketone.

reactant | [((ethylsulfinyl)methyl)-thio]ethane | 10 mmole | C(C)S(=O)CSCC | C5H12OS2
reactant | sodium hydride | 10 mmole | [H-].[Na+]
reactant | N-(3-bromopropyl)phthalimide | 10 mmole | BrCCCN1C(C=2C(C1=O)=CC=CC2)=O | C11H10BrNO2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | N-(4-ethylthio-4-ethylsulfinylbutyl)phthalimide | C(C)SC(CCCN1C(C=2C(C1=O)=CC=CC2)=O)S(=O)CC | C16H21NO3S2
